US08242104B2
To a solution of 2-isopropyl-5-methyl-2H-[1,2,4]triazole-3-carboxylic acid ethyl ester (12.09 g, 61.3 mmol) and dibromomethane (8.63 mL, 122.6 mmol) in THF (500 mL) at −78° C. was added methyllithium (40.9 mL, 122.6 mmol, 3M solution in diethoxymethane) dropwise. The reaction mixture was stirred at −78° C. for 15 min. Acetic acid (3 mL) was added and the reaction mixture allowed to warm to RT. The reaction mixture was diluted with water and extracted with ethyl acetate (3×30 mL). The combined organic extracts were washed with brine, dried (MgSO4) and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 0-100% ethyl acetate in cyclohexane) to give 2-Bromo-1-(2-isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-ethanone as a colourless oil which crystallised on standing (11.26 g, 75%). 1H NMR 400 MHz (CDCl3) δ: 5.41 (1H, sept, J=6.6 Hz), 4.67 (2H, s), 2.44 (3H, s), 1.49 (6H, d, J=6.6 Hz)

reactant | 2-isopropyl-5-methyl-2H-[1,2,4]triazole-3-carboxylic acid ethyl ester | 61.3 mmol, 12.09 g | C(C)OC(=O)C=1N(N=C(N1)C)C(C)C | C9H15N3O2
reactant | dibromomethane | 122.6 mmol, 8.63 mL | BrCBr | CH2Br2
reactant | methyllithium | 122.6 mmol, 3M, 40.9 mL | C[Li]
reactant | Acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-Bromo-1-(2-isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-ethanone | BrCC(=O)C=1N(N=C(N1)C)C(C)C | C8H12BrN3O
